US07528158B2
To a solution of (5-nitro-3-oxo-2,3-dihydro-indazol-1-yl)-acetic acid ethyl ester (0.24 g) in THF (9 mL), was added 2 N NaOH (aq.) (1.8 mL). The reaction mixture was stirred at ambient temperature for 30 minutes. The reaction mixture was acidified with 2 N HCl (aq.) and extricated with EtOAc. Evaporation of the organic phases afforded the desired crude (5-nitro-3-oxo-2,3-dihydro-indazol-1-yl)-acetic acid (0.146 g) which was taken into the next step without further purification.

reactant | (5-nitro-3-oxo-2,3-dihydro-indazol-1-yl)-acetic acid ethyl ester | 0.24 g | C(C)OC(CN1NC(C2=CC(=CC=C12)[N+](=O)[O-])=O)=O | C11H11N3O5
reactant | NaOH | 2 N, 1.8 mL | [OH-].[Na+]
reactant | HCl | 2 N | Cl | ClH
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 9 mL | C1CCOC1 | C4H8O
product | (5-nitro-3-oxo-2,3-dihydro-indazol-1-yl)-acetic acid | 0.146 g | [N+](=O)([O-])C=1C=C2C(NN(C2=CC1)CC(=O)O)=O | C9H7N3O5
